US06265396B1
1-Benzyl-4-ethoxycarbonylpyridinium bromide (580 g, 1.80 mol) is suspended in a mixture of ethanol (900 ml) and water (900 ml), and thereto is added sodium borohydride (74.9 g, 1.98 mol) in portions while the temperature of the reaction mixture is kept at a temperature below 10° C. The reaction mixture is stirred at 10° C. for three hours. The reaction mixture is concentrated under reduced pressure, and the residue is dissolved in chloroform. The mixture is washed with water, dried over sodium sulfate, and concentrated under reduced pressure to remove the solvent. The residue is dissolved in chloroform (500 ml), and thereto is added dropwise ethyl chloroformate (215 g, 1.98 mol) under reflux over a period of one hour. The mixture is further refluxed for 30 minutes, and concentrated under reduced pressure. To the residue are added conc. hydrochloric acid (504 g) and water (150 g), and the mixture is refluxed for 10 hours. The reaction mixture is cooled to room temperature, and concentrated under reduced pressure. To the residue is added isopropyl alcohol (500 ml), and the mixture is stirred. The precipitated crystals are collected by filtration with suction, and washed with a small amount of ether, and dried with air to give 1,2,5,6-tetrahydroisonicotinic acid hydrochloride (151.7 g, 52%), as white crystals.

reactant | 1-Benzyl-4-ethoxycarbonylpyridinium bromide | 1.80 mol, 580 g | [Br-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)C(=O)OCC
reactant | sodium borohydride | 1.98 mol, 74.9 g | [BH4-].[Na+]
reactant | ethyl chloroformate | 1.98 mol, 215 g | ClC(=O)OCC | C3H5ClO2
solvent | ethanol | 900 ml | C(C)O | C2H6O
solvent | water | 900 ml | O | H2O
product | 1,2,5,6-tetrahydroisonicotinic acid hydrochloride | 151.7 g, 52% | Cl.C(C1=CCNCC1)(=O)O | InChI=1S/C6H9NO2.ClH/c8-6(9)5-1-3-7-4-2-5;/h1,7H,2-4H2,(H,8,9);1H
